US09428500B2
To a solution of 2-bromo-1,4-bis(methyloxy)benzene (2.0 g, 9.21 mmol) and benzoyl chloride (1.229 mL, 10.596 mmol, 1.15 eq) in DCM (9.5 mL, C=1.0M) at 0° C. was added triflic acid (0.815 mL, 9.21 mmol) over 5 min. The reaction mixture was allowed to warm to ambient temperature (40 min) and then slowly heated to gentle reflux (oil bath at 42° C.) and stirred for 48 h. The reaction mixture was cooled to r.t., and MeOH (0.3 mL) was added and stirring was continued for 30 min. The reaction mixture was poured into 80 mL of ice cooled water. The aqueous layer was neutralized with a 1 M NaOH solution. The layers were separated. The aqueous layer was extracted twice with DCM (2×20 mL). The combined organic phase was washed twice with a 1/1 water/brine mixture (2×30 mL), dried over MgSO4, filtered and concentrated in vacuo to a brown-orange oil. Then, MTBE (7 mL) was added and the mixture was stirred into an ultra-sound bath. The resulting solid was filtered, rinsed with 1:1 MTBE/hexanes mixture and air dried to afford [4-bromo-2,5-bis(methyloxy)phenyl](phenyl)methanone in 76% yield (2.258 g) as a white solid. 1H NMR (300 MHz, DMSO) δ 7.72 (d, J=8.5 Hz, 1H), 7.65 (t, J=7.4 Hz, 1H), 7.51 (t, J=7.6 Hz, 1H), 7.45 (s, 1H), 7.10 (s, 1H), 3.81 (s, 2H), 3.63 (s, 2H), 13C NMR (75 MHz, DMSO) δ 194.5 (C═O), 150.7 (C), 149.7 (C), 136.7 (C), 133.5 (CH), 129.3 (2CH), 128.6 (2CH), 128.2 (C), 117.3 (CH), 113.3 (C), 112.5 (CH), 56.7 (OCH3), 56.5 (OCH3); MS (ESI) m/z: 321.1, 323.0 [M+H, 79Br, 81Br]+; 243.1, 245.0 [M-Ph, 79Br, 81Br]+.

reactant | 2-bromo-1,4-bis(methyloxy)benzene | 9.21 mmol, 2.0 g | BrC1=C(C=CC(=C1)OC)OC | C8H9BrO2
reactant | benzoyl chloride | 10.596 mmol, 1.229 mL, 1.15 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triflic acid | 9.21 mmol, 0.815 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | DCM | 1.0M, 9.5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | MeOH | 0.3 mL | CO | CH4O
product | [4-bromo-2,5-bis(methyloxy)phenyl](phenyl)methanone | 76% yield | BrC1=CC(=C(C=C1OC)C(=O)C1=CC=CC=C1)OC | C15H13BrO3
